US06534531B2
N-[5-[[[5-(1,1-Dimethylethyl)-2-oxazolyl]methyl]thio]-2-thiazolyl]-4-piperidinecarboxamide, monohydrobromide
To a solution of 1M HBr in EtOH (0.5 mL) was added N-[5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]thio]-2-thiazolyl]-4-piperidinecarboxamide (190 mg, 0.5 mmol, 1 eq) then cooled to −40° C. overnight. The solid precipitate that formed was collected on a Buchner funnel, washed with absolute EtOH then dried under vacuum at 100° C. to afford the title compound (72%) as a fine white powder, mp 235-237° C.

reactant | HBr | 1M | Br | BrH
reactant | N-[5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]thio]-2-thiazolyl]-4-piperidinecarboxamide | 0.5 mmol, 190 mg, 1 eq | CC(C)(C)C1=CN=C(O1)CSC1=CN=C(S1)NC(=O)C1CCNCC1 | C17H24N4O2S2
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | N-[5-[[[5-(1,1-Dimethylethyl)-2-oxazolyl]methyl]thio]-2-thiazolyl]-4-piperidinecarboxamide, monohydrobromide | 72% | Br.CC(C)(C)C1=CN=C(O1)CSC1=CN=C(S1)NC(=O)C1CCNCC1 | InChI=1S/C17H24N4O2S2.BrH/c1-17(2,3)12-8-19-13(23-12)10-24-14-9-20-16(25-14)21-15(22)11-4-6-18-7-5-11;/h8-9,11,18H,4-7,10H2,1-3H3,(H,20,21,22);1H
